US05547954
A mixture of 9.0 grams (0.040 mole) of 5-bromo-3-cyano-2-hydroxy-4,6-dimethylpyridine in 40 mL of phosphorus oxychloride is stirred, and one drop (catalyst) of N,N-dimethylformamide is added. The reaction mixture is then stirred at ambient temperature for about five hours, and then allowed to stand for about 72 hours. After this time, the reaction mixture is poured into 1000 mL of ice containing about one mL of concentrated hydrochloric acid. The mixture is stirred until the ice melts. The resultant precipitate is collected by filtration and washed with water. The solid is then dried under reduced pressure at about 60° C. An NMR spectrum of the solid indicates that it contains a large amount of starting material. The solid is then dissolved in 25 mL of phosphorus oxychloride, and two drops of N,N-dimethylformamide are added. The mixture is heated to reflux where it is stirred for about 18 hours. After this time, the reaction mixture is poured into 600 mL of ice containing about two mL of concentrated hydrochloric acid. The mixture is stirred until the ice melts. The resultant precipitate is collected by filtration, washed with water, and dried under reduced pressure at about 60° C., yielding 8.6 grams of 5-bromo-2-chloro-3-cyano-4,6-dimethylpyridine. The NMR spectrum is consistent with the proposed structure.

reactant | 5-bromo-3-cyano-2-hydroxy-4,6-dimethylpyridine | 0.040 mole, 9.0 grams | BrC=1C(=C(C(=NC1C)O)C#N)C | C8H7BrN2O
reactant | hydrochloric acid | Cl | ClH
solvent | phosphorus oxychloride | 40 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 5-bromo-2-chloro-3-cyano-4,6-dimethylpyridine | 8.6 grams | BrC=1C(=C(C(=NC1C)Cl)C#N)C | C8H6BrClN2
